US06495576B2
N-[1-(1H-1,2,3-Benzotriazol-1-yl)-2,2-dimethylpropyl]-2-furamide
Furan-2-carboxamide, pivaldehyde, benzotriazole, and p-toluenesulfonic acid in xylene were processed as described in Example 18B to provide the title compound.

reactant | Furan-2-carboxamide | O1C(=CC=C1)C(=O)N | C5H5NO2
reactant | pivaldehyde | CC(C)(C)C=O | C5H10O
reactant | benzotriazole | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | N-[1-(1H-1,2,3-Benzotriazol-1-yl)-2,2-dimethylpropyl]-2-furamide | N1(N=NC2=C1C=CC=C2)C(C(C)(C)C)NC(=O)C=2OC=CC2 | C16H18N4O2
